US07417157B2
9.65 g (27.0 mmol) of methyltriphenylphosphonium bromide are initially introduced in 100 ml of THF, and 3.09 g (27.0 mmol) of potassium tert-butoxide in 60 ml of THF are added at −5° C. After 1 h at this temperature, 8.40 g (about 24 mmol) of crude (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanecarbaldehyde as a solution in 90 ml of THF are added dropwise, and the batch is stirred at room temperature for 3 h. The reaction solution is hydrolysed using water and acidified using 2 N HCl. The mixture is extracted with MTBE, and the combined organic phases are dried using sodium sulfate. The crude product remaining after removal of the solvents is filtered adsorptively (SiO2, toluene), and the filtrate is concentrated to dryness. Repeated recrystallisation of the residue from ethanol gives (±)-(3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-3-(4-vinylcyclohexyl)-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid (m.p. 132° C.).

reactant | potassium tert-butoxide | 27.0 mmol, 3.09 g | CC(C)([O-])C.[K+]
reactant | (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanecarbaldehyde | about 24 mmol, 8.40 g | C(C)OC1=C(C2=C([C@H]3[C@H](O2)C[C@@H](CC3)C3CCC(CC3)C=O)C=C1)F | C21H27FO3
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
catalyst | methyltriphenylphosphonium bromide | 27.0 mmol, 9.65 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | (±)-(3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-3-(4-vinylcyclohexyl)-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C([C@H]3[C@H](O2)C[C@@H](CC3)C3CCC(CC3)C=C)C=C1)F | C22H29FO2
